** sch_path: /foss/designs/ttsky-26c-voltage-amplifier-neuron/schem/vamp_if_neuron.sch
.subckt vamp_if_neuron VCC V_MEM_BUF VSS rst_n IN1 IN2 IN3 IN4 IN5
*.PININFO VCC:B VSS:B rst_n:I V_MEM_BUF:O IN1:I IN2:I IN3:I IN4:I IN5:I
XC1 V_MEM VSS sky130_fd_pr__cap_mim_m3_1 W=22.63 L=22.63
XM1 net5 V_inv2 VK_SRC VSS sky130_fd_pr__nfet_01v8 L=4 W=1 nf=1
XM5 V_inv2 V_inv1 VNET_KDOWN_SRC VSS sky130_fd_pr__nfet_01v8 L=0.5 W=1 nf=1
XM6 V_inv2 V_inv1 net3 VCC sky130_fd_pr__pfet_01v8_lvt L=0.5 W=2 nf=1
XC2 V_inv2 VSS sky130_fd_pr__cap_mim_m3_1 W=24.75 L=24.75
VSNA net6 V_MEM 0
.save i(vsna)
VSKUP net4 net3 0
.save i(vskup)
VSK net5 V_MEM 0
.save i(vsk)
VSKDOWN net2 VNET_KDOWN_SRC 0
.save i(vskdown)
XM2 VK_SRC VBN_REF10N VSS VSS sky130_fd_pr__nfet_01v8 L=4 W=1 nf=1 m=4
XM3 net2 VBN_REF1N VSS VSS sky130_fd_pr__nfet_01v8 L=4 W=2 nf=1
XM7 VNA_SRC VBP_REF10N VCC VCC sky130_fd_pr__pfet_01v8 L=4 W=1 nf=1
XM8 net4 VBP_REF1N VCC VCC sky130_fd_pr__pfet_01v8 L=4 W=2.5 nf=1 m=2
XM4 net6 V_inv1 VNA_SRC VCC sky130_fd_pr__pfet_01v8_lvt L=4 W=2 nf=1
VSIN V_STIM V_MEM 0
.save i(vsin)
VSBUF net7 V_MEM_BUF 0
.save i(vsbuf)
XM9 VSS V_MEM V_MEM_BUF VCC sky130_fd_pr__pfet_01v8_lvt L=0.5 W=40 nf=1
XM10 net7 VBP_REF10N VCC VCC sky130_fd_pr__pfet_01v8 L=0.75 W=10 nf=1 m=2
XM11 net8 VBN_REF1N VSS VSS sky130_fd_pr__nfet_01v8 L=4 W=1 nf=1
VSLK net8 V_MEM 0
.save i(vslk)
XR3 V_THRES VCC VSS sky130_fd_pr__res_xhigh_po_0p35 L=10 mult=1
XR4 VSS V_THRES VSS sky130_fd_pr__res_xhigh_po_0p35 L=6.36 mult=1
XC3 V_MEM VSS sky130_fd_pr__cap_mim_m3_1 W=22.63 L=22.63
XC4 V_inv2 VSS sky130_fd_pr__cap_mim_m3_1 W=24.75 L=24.75
.ends


